US05550152
A. 2',4'-Dihydroxy-3-chloropropiophenone
To a stirred mixture of resorcinol (200 g, 1.82 mol) and 3-chloropropionic acid (200 g, 1.84 mol) was added trifluoromethane sulfonic acid (1 kg) in one portion. The solution was heated slowly over 45 minutes to 80° C. then cooled to room temperature over 15 minutes and poured into chloroform (4.0 L). The organic portion was slowly poured into water (4.0 L) and the layers separated. The aqueous layer was extracted with chloroform (2×2.0 L). The combined organic layers were washed with brine, dried over sodium sulfate and filtered. Concentration in vacuo gave an orange semi-solid (244.1 g) which was used crude in the next step.

reactant | resorcinol | 1.82 mol, 200 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 3-chloropropionic acid | 1.84 mol, 200 g | ClCCC(=O)O | C3H5ClO2
reactant | trifluoromethane sulfonic acid | 1 kg | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | chloroform | 4.0 L | C(Cl)(Cl)Cl | CHCl3
solvent | water | 4.0 L | O | H2O
product | 2',4'-Dihydroxy-3-chloropropiophenone | 244.1 g | OC1=C(C=CC(=C1)O)C(CCCl)=O | C9H9ClO3
